US04122255
(C) N-[[2-[3-(1-Piperidinyl)propoxy]phenyl]methyl]benzeneethanamine
N-[[2-[3-(1-Piperidinyl)propoxy]phenyl]methylene]benzeneethanamine (61.5g) is reduced with 20g of sodium borohydride in 320ml of methanol following the procedure described in Example 1B to yield 49.6g of product as an oil, boiling point 216°-221° C at 0.3-0.4mm of Hg.

reactant | N-[[2-[3-(1-Piperidinyl)propoxy]phenyl]methylene]benzeneethanamine | 61.5g | N1(CCCCC1)CCCOC1=C(C=CC=C1)C=NCCC1=CC=CC=C1 | C23H30N2O
reactant | sodium borohydride | [BH4-].[Na+]
solvent | methanol | 320ml | CO | CH4O
product | N-[[2-[3-(1-Piperidinyl)propoxy]phenyl]methyl]benzeneethanamine | 49.6g | N1(CCCCC1)CCCOC1=C(C=CC=C1)CNCCC1=CC=CC=C1 | C23H32N2O
